US03951961
700 grams of 2 -(3-fluorophenyloxy)- 5-trifluoromethylbenzoic acid were dissolved in 300 milliliters of concentrated sulfuric acid whereby the temperature rose to 60°C. The mixture was stirred at 45°-50°C for 1 hour and then poured onto 10 liters of crushed ice. The precipitate was filtered off, suspended in 1000 milliliters of acetone, made alkaline with concentrated aqueous ammonia and reprecipitated with ice and water to a volume of 10 liters. The precipitate was filtered, washed with water and dried in vacuum, whereupon it was recrystalliZed to yield 167 grams of 2-trifluoromethyl-6-fluoroxanthen-9-one which melts at 140°-142°C.

reactant | 2 -(3-fluorophenyloxy)- 5-trifluoromethylbenzoic acid | 700 grams | FC=1C=C(C=CC1)OC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C14H8F4O3
solvent | sulfuric acid | 300 milliliters | S(O)(O)(=O)=O | H2O4S
product | 2-trifluoromethyl-6-fluoroxanthen-9-one | 167 grams | FC(C1=CC=2C(C3=CC=C(C=C3OC2C=C1)F)=O)(F)F | C14H6F4O2
